US08871788B2
6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline
6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline (4.02 g, 9.16 mmol, 1 eq) was dissolved in dry toluene (40.2 mL), degassed with nitrogen and heated to 60° C. Red-Al (11.3 mL, 36.6 mmol, 4 eq) was added slowly and the reaction mixture was heated to 85° C. and stirred overnight. The reaction mixture was cooled to 0° C. and 49 mL of ethyl acetate was added followed slowly by 19.1 mL of a 10M aqueous NaOH solution (190 mmol, 7.6 g NaOH) and 19 mL of water. The reaction mixture was then transferred to a separatory funnel, diluted with brine and extracted with ethyl acetate (2×100 mL). The combined organics were dried over Na2SO4, concentrated under vacuum and purified by column chromatography on silica gel (200 g column; 50 mL/min; 10% MeOH in CH2Cl2 to 5% 7N NH3 in MeOH:90% CH2Cl2), which yielded 1.81 g (69%) of the title compound as a light yellow viscous oil.

reactant | 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline | 9.16 mmol, 4.02 g, 1 eq | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C25H33N3O2S
reactant | Red-Al | 36.6 mmol, 11.3 mL, 4 eq | COCCO[AlH2-]OCCOC.[Na+]
reactant | ethyl acetate | 49 mL | C(C)(=O)OCC | C4H8O2
reactant | NaOH | 190 mmol, 10M, 7.6 g | [OH-].[Na+]
solvent | toluene | 40.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
solvent | water | 19 mL | O | H2O
product | 6-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,3,4-tetrahydro-isoquinoline | 1.81 g, 69% | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCNCC2=CC1 | C18H27N3
